US08466282B2
(3R,5S)-1-(tert-butoxycarbonyl)-5-{{{6-methoxy-1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}piperidine-3-carboxylic acid
6-Methoxy-1-(4-methoxybutyl)-2-(trichloromethyl)-1H-benzimidazole (1.42 g) was dissolved in acetonitrile-water (2:1, 150 ml), 1-tert-butyl 3-methyl(3R,5S)-5-{(2-methylpropyl)amino}piperidine-1,3-dicarboxylate (1.02 g) was added, potassium carbonate (5.5 g) was added and the mixture was stirred at 80° C. for 19 hr. The reaction mixture was concentrated under reduced pressure, acidified (pH3) with 6M hydrochloric acid, and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, and a fraction eluted with ethyl acetate-hexane (5:95)-ethyl acetate-ethyl acetate-methanol (85:15) was concentrated under reduced pressure. The residue was subjected to reversed-phase preparative HPLC, and a fraction eluted with water-acetonitrile (9:1-6:4) was collected, basified (pH 10) with saturated aqueous potassium carbonate solution, and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the object product (460 mg).

reactant | 6-Methoxy-1-(4-methoxybutyl)-2-(trichloromethyl)-1H-benzimidazole | 1.42 g | COC=1C=CC2=C(N(C(=N2)C(Cl)(Cl)Cl)CCCCOC)C1 | C14H17Cl3N2O2
reactant | 1-tert-butyl 3-methyl(3R,5S)-5-{(2-methylpropyl)amino}piperidine-1,3-dicarboxylate | 1.02 g | CC(CN[C@H]1C[C@H](CN(C1)C(=O)OC(C)(C)C)C(=O)OC)C | C16H30N2O4
reactant | potassium carbonate | 5.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile water | 150 ml | C(C)#N.O
product | (3R,5S)-1-(tert-butoxycarbonyl)-5-{{{6-methoxy-1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}piperidine-3-carboxylic acid | 460 mg | C(C)(C)(C)OC(=O)N1C[C@@H](C[C@@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=C(C=C2)OC)C(=O)O | C29H44N4O7
